US05854232
1-Adamantan-1-yl-3.3-bis-pyridin-4-ylmethyl-azetidine-2.4-dione
To a solution of N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester (100 mg, 0.23 mmol) in anhydrous tetrahydrofuran (1.5 ml), a 1.4M solution of methyl magnesium bromide in toluene/ tetrahydrofuran (Aldrich Chemical Co., 330 μl, 0.46 mmol of methyl magnesium bromide) and cuprous bromide (1.6 mg) was added. The reaction was heated at 50° C. for 6 hours and then quenched by addition to 15 ml of ice water containing 200 μl of concentrated sulfuric acid. The pH of the mixture was then adjusted to 8.0 with aqueous sodium bicarbonate. Two 15 ml methylene chloride extractions were combined, dried (anhydrous sodium sulfate), and concentrated in vacuo to an oil (104 mg). Flash chromatography of the entire sample (silica gel, 40 micron mesh; elution with methanol/methylene chloride=4:96 in volume) afforded the title compound (20 mg) as an oil.

reactant | N-adamantan-1-yl-2,2-bis-pyridin4-ylmethyl-malonamic acid methyl ester | 0.23 mmol, 100 mg | COC(C(C(=O)NC12CC3CC(CC(C1)C3)C2)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C26H31N3O3
reactant | methyl magnesium bromide | C[Mg]Br
reactant | toluene tetrahydrofuran | 0.46 mmol, 330 μl | C1(=CC=CC=C1)C.O1CCCC1
solvent | tetrahydrofuran | 1.5 ml | O1CCCC1 | C4H8O
product | 1-Adamantan-1-yl-3.3-bis-pyridin-4-ylmethyl-azetidine-2.4-dione | 20 mg | C12(CC3CC(CC(C1)C3)C2)N2C(C(C2=O)(CC2=CC=NC=C2)CC2=CC=NC=C2)=O | C25H27N3O2
